US05965679
(c) Preparation of 4,4'-Bis(phenylethynyl)benzil
A solution of 4,4'-dibromobenzil (15.8 g, 0.0431 mol), phenylacetylene (5.06 g, 0.0495 mol), (PPh3)2PdCl2 (0.151 g, 0.0002 mol) and CuI (0.820 g, 0.0043 mol) in diethylamine (150 mL) is heated at reflux overnight. The reaction mixture is concentrated to dryness, then taken up in CH2Cl2 (150 mL), washed with 1 M HCl, 10 percent Na2CO3 /H2O, brine and dried (Na2SO4), then concentrated. Crystallization from 2-propanol gives 7.92 g (45 percent) as a light tan solid, mp 168° C. to 170° C. 1H NMR (CDCl3) δ 7.97 (d, J=8.2 Hz, 4H), 7.64 (d, J=8.2 Hz, 4H), 7.55 (m, 4H), 7.37 (m, 6H); 13C NMR (CDCl3) δ193.03, 132.46, 132.03, 131.82, 130.21, 129.84, 129.06, 128.47, 122.37, 94.28, 88.55.

reactant | 4,4'-dibromobenzil | 0.0431 mol, 15.8 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | phenylacetylene | 0.0495 mol, 5.06 g | C1(=CC=CC=C1)C#C | C8H6
solvent | diethylamine | 150 mL | C(C)NCC | C4H11N
catalyst | (PPh3)2PdCl2 | 0.0002 mol, 0.151 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.0043 mol, 0.820 g | [Cu]I
product | 4,4'-Bis(phenylethynyl)benzil | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C#CC1=CC=CC=C1 | C30H18O2
